US07687541B2
Diisobutylaluminum hydride (1.0 M solution in dichloromethane) was added dropwise to a solution of 3-(3,4-Difluoro-phenyl)-4-(4-methanesulfonyl-phenyl)-H-furan-2-one (15.0 g, 42.8 mmol) and CH2Cl2 at 0° C. Upon completion of the addition, the solution was allowed to warm to rt, and maintained for 12 h. The reaction mixture was quenched by the addition of a saturated solution of sodium potassium tartrate. Celite was added, and the resulting mixture was filtered. The aqueous layer was extracted with CH2Cl2. The combined extracts were dried (MgSO4) and concentrate to afford 2-(3,4-Difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-ene-1,4-diol as a pale yellow solid: 1H NM (CDCl3, 500 MHz) δ 7.74 (d, 2H), 7.26 (d, 2H), 6.88-6.90 (m, 2H), 7.29-7.31 (m, 1H), 4.52-4.62 (m, 4H), 3.01 (s, 1H). A solution of the crude diol (5.0 g, 14 mmol), Et3N (2.0 mL, 14 mmol), tert-butyldimethylchlorosilane (2.1 g, 14 mmol), and CH2Cl2 (100 mL) was maintained at rt for 12 h. The reaction mixture was adsorbed onto silica gel and purified by flash chromatography on silica gel (eluent hexanes/EtOAc) to afford 4-(tert-Butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-en-1-ol as a colorless oil: 1H NMR (CDCl3, 500 mHz), δ 7.38 (dd, 2H), 7.28 (dd, 2H), 6.90-6.92 (m, 1H), 6.65-6.67 (m, 1H), 6.13-6.15 (m, 1H), 4.74 (s, 2H), 4.55 (d, 2H), 2.86 (d, 2H), 0.97 (s, 9H), 0.04 (s, 3H), 0.02 (s, 3H). A solution of acetyl chloride (40 μL, 0.56 mmol) and CH2Cl2 (10 mL) was added to a cooled (0° C.) solution of 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-en-1-ol (250 mg, 0.5 mmol), N,N-dimethylaminopyridine (10 mg), Et3N (150 μL, 0.53 mmol), and CH2Cl2 (20 mL). After 12 h, the reaction mixture was adsorbed onto silica gel, and purified by flash chromatography on silica gel (eluent EtOAc/hexanes) to afford acetic acid 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-enyl ester as a colorless oil: 1H NMR (CDCl3, 500 mHz), δ 7.74 (d, 2H), 7.24 (d, 2H), 7.22-7.28 (m, 2H), 6.66-6.69 (m, 1H), 5.08 (s, 2H), 4.60 (s, 2H), 3.00 (s, 3H), 2.05 (s, 3H), 0.92 (s, 9H), 0.00 (s, 3H), −0.02 (s, 3H). Hydrogen fluoride/pyridine complex (500 μL) was added to a solution of acetic acid 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-enyl ester (130 mg, 0.28 mmol) and CH2Cl2 (10 mL). After 10 min, the solution was quenched by the addition of saturated aqueous NaHCO3 solution until a pH of 7 was achieved. The mixture was extracted with CH2Cl2, and the combined extracts were dried (MgSO4). The crude extracts were treated with Dess-Martin periodinane (146 mg, 0.35 mmol). After 1 h, H2O was added (1 mL) and the resulting slurry was stirred vigorously for 20 min. The mixture was filtered through a plug of silica gel (eluent: EtOAc). The solution was concentrated and dissolved in THF (4 mL), 2-methyl-2-propanol (4 mL), and solution of 2-methyl-2-butene (2.0 M solution in THF, 2 mL). A solution of NaClO2 (131 mg, 1.5 mmol), NaH2PO4 (241 mg, 2.0 mmol) and H2O (4 mL) was added. After 10 min, the mixture was diluted with EtOAc (20 mL) and washed with saturated aqueous NH4Cl solution (5 mL), dried (MgSO4), and filtered to afford 4-Acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid: 1H NMR (CDCl3, 500 mHz) δ 7.80 (d, 2H), 7.39 (d, 2H), 7.02-7.05 (m, 2H), 6.85-6.87 (m, 1H), 5.27 (s, 2H), 3.06 (s, 3H), 1.93 (s, 3H). The crude 4-acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid (100 mg, 0.24 mmol) was combined with 4-(tert-Butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-en-1-ol (114 mg, 0.24 mmol), triphenylphosphine (70 mg, 0.27 mmol), and THP (100 μL). The mixture was sonicated until a solution was observed. Diispropylazodicarboxylate (53 μL, 0.27 mmol) was added dropwise via syringe. The mixture was sonicated for 1 h or until all starting material was consumed by LC. The mixture was adsorbed onto silica gel, and purified by flash chromatography on silica gel (eluent: EtOAc/hexanes) to afford 4-acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-enyl ester as a colorless solid: 1H NMR (CDCl3, 500 mHz) δ 7.77 (d, 2H), 7.69 (d, 2H), 7.22 (d, 2H), 7.11 (d, 2H), 6.75-6.94 (m, 3H), 6.68-6.73 (m, 2H), 6.49-6.51 (m, 1H), 5.32 (s, 2H), 5.09 (s, 2H), 4.58 (s, 2H), 3.03 (s, 3H), 3.02 (s, 3H), 1.90 (s, 3H), 0.85 (s, 9H), 0.01 (s, 3H), 0.00 (s, 3H). A solution of 4-acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-enyl ester (72 mg, 0.084 mmol) and CH2Cl2 (5 mL) was treated with HF/pyridine complex (0.5 mL). After 10 min, the reaction was quenched by the addition of saturated aqueous NaHCO3 (5 mL). The mixture was extracted with CH2Cl2, and the combined extracts were dried (MgSO4). The crude extracts were treated with Dess-Martin periodinane (46 mg, 0.11 mmol). After 1 h, H2O was added (1 mL) and the resulting slurry was stirred vigorously for 20 min. The mixture was filtered through a plug of silica gel (eluent: EtOAc). The solution was concentrated and dissolved in THF (4 mL), 2-methyl-2-propanol (4 mL), and a solution of 2-methyl-2-butene (2.0 M solution in THF, 2 mL). A solution of NaClO2 (40 mg, 0.44 mmol), NaH2PO4 (73 mg, 0.61 mmol) and H2O (4 mL) was added. After 10 min, the mixture was diluted with EtOAc (20 mL) and washed with saturated aqueous NH4Cl solution (5 mL), dried (MgSO4), filtered, and purified on flash chromatography on silica gel (eluent: CH2Cl2/MeOH to afford 4-[4-Acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoyloxy]-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid as a colorless solid. The sodium salt of the acid was prepared by dissolving the acid in the minimum amount of EtOH, cooling the solution to 0° C., and adding 1 equivalent of aqueous NaHCO3. The sodium salt of the title compound was isolated after freeze-drying: 1H NMR (D2O, 500 MHz) δ 7.58 (d, 2H), 7.50 (d, 2H), 7.16 (d, 2H), 7.14 (d, 2H), 6.88-6.91 (m, 2H), 6.71-6.86 (m, 2H), 6.54-6.57 (m, 1H), 6.43-6.46 (m, 1H), 5.22 (s, 2H), 4.68 (s, 2H), 3.04 (s, 3H), 3.00 (s, 3H), 1.75 (s, 3H).

reactant | acetic acid 4-(tert-butyl-dimethyl-silanyloxy)-3-(3,4-difluoro-phenyl)-2-(4-methanesulfonyl-phenyl)-but-2-enyl ester | 0.28 mmol, 130 mg | C(C)(C)(C)[Si](OCC(=C(COC(C)=O)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC(=C(C=C1)F)F)(C)C | C25H32F2O5SSi
reactant | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
reactant | Dess-Martin periodinane | 0.35 mmol, 146 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaClO2 | 1.5 mmol, 131 mg | [O-]Cl=O.[Na+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 4 mL | O | H2O
product | 4-Acetoxy-2-(3,4-difluoro-phenyl)-3-(4-methanesulfonyl-phenyl)-but-2-enoic acid | C(C)(=O)OCC(=C(C(=O)O)C1=CC(=C(C=C1)F)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H16F2O6S
